US07652049B2
To a solution of [(1S,2S)-2-(3,5-difluorophenyl)-2-hydroxy-1-methylethyl]carbamate (900 mg, 2.80 mmol) in THF (28.6 mL) was added MeOH (14.3 mL) and 7.5 N KOH (7.2 mL). The reaction was stirred at room temperature for 4 hours and then extracted with EtOAc (2×75 mL). The organic extracts were washed with water and brine (50 mL each), dried over Na2SO4, filtered, and concentrated. Purification of the residue by flash chromatography on silica gel (10 to 75% EtOAc/hexanes) afforded (4S,5S)-5-(3,5-difluorophenyl)-4-methyl-1,3-oxazolidin-2-one. Rf=0.07 (25% EtOAc/hexanes). LCMS=214.3 (M+1)+. 1H NMR (CDCl3, 500 MHz) δ 6.89-6.93 (m, 2H), 6.82 (m, 1H), 6.24 (bs, 1H), 5.01 (d, J=6.8 Hz, 1H), 3.79 (m, 1H), 1.42 (d, J=6.2 Hz, 3H).

reactant | [(1S,2S)-2-(3,5-difluorophenyl)-2-hydroxy-1-methylethyl]carbamate | 2.80 mmol, 900 mg | FC=1C=C(C=C(C1)F)[C@@H]([C@H](C)NC([O-])=O)O
reactant | MeOH | 14.3 mL | CO | CH4O
reactant | KOH | 7.5 N, 7.2 mL | [OH-].[K+]
solvent | THF | 28.6 mL | C1CCOC1 | C4H8O
product | (4S,5S)-5-(3,5-difluorophenyl)-4-methyl-1,3-oxazolidin-2-one | FC=1C=C(C=C(C1)F)[C@H]1[C@@H](NC(O1)=O)C | C10H9F2NO2
